US07816406B2
2-(4-Acetyl-piperazin-1-yl)-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide.
A solution of 2-methylsulfanyl-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid (2-cyclopentyl-ethyl)-amide (25 mg, 0.057 mmol) and 1-(piperazin-1-yl)ethanone (75 mg, 0.585 mmol) in NMP (1.0 mL) was heated for 20 min at 200° C. in a microwave. The crude reaction mixture was purified by reverse phase HPLC. MS (m/z): 520 (MH+).

reactant | 2-methylsulfanyl-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid (2-cyclopentyl-ethyl)-amide | 0.057 mmol, 25 mg | C1(CCCC1)CCNC(=O)C=1C(C2=C(N3C=4C=CC=CC4SC13)N=C(N=C2)SC)=O | C22H22N4O2S2
reactant | 1-(piperazin-1-yl)ethanone | 0.585 mmol, 75 mg | N1(CCNCC1)C(C)=O | C6H12N2O
reactant | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
product | 2-(4-Acetyl-piperazin-1-yl)-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide | N1(CCCC1)CCNC(=O)C=1C(C2=C(N3C=4C=CC=CC4SC13)N=C(N=C2)N2CCN(CC2)C(C)=O)=O | C26H29N7O3S
